US08536169B2
Phenylmethyl 3-hydroxy-4-({[6-(1H-indol-4-yl)-1H-indazol-4-yl]amino}carbonyl)-1-pyrrolidinecarboxylate
To a solution of 4-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}-3-pyrrolidinecarboxylic acid (available from Fluorochem, 59 mg, 0.22 mmol) in DMF (1 ml) was added HATU (85 mg, 0.22 mmol) and the mixture stirred for 10 mins. Then 6-(1H-indol-4-yl)-1H-indazol-4-amine (46 mg, 0.19 mmol) and DIPEA (0.065 ml, 0.37 mmol) were added and the mixture allowed to stand for 18 h at 20° C. The solvent was removed under a stream of nitrogen and the residue purified by Mass Directed Automated Preparative HPLC (Method E), to give the title compound (6 mg) as a brown solid.

reactant | 4-hydroxy-1-{[(phenylmethyl)oxy]carbonyl}-3-pyrrolidinecarboxylic acid | 0.22 mmol, 59 mg | OC1C(CN(C1)C(=O)OCC1=CC=CC=C1)C(=O)O | C13H15NO5
reactant | HATU | 0.22 mmol, 85 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(1H-indol-4-yl)-1H-indazol-4-amine | 0.19 mmol, 46 mg | N1C=CC2=C(C=CC=C12)C=1C=C(C=2C=NNC2C1)N | C15H12N4
reactant | DIPEA | 0.37 mmol, 0.065 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | Phenylmethyl 3-hydroxy-4-({[6-(1H-indol-4-yl)-1H-indazol-4-yl]amino}carbonyl)-1-pyrrolidinecarboxylate | 6 mg | OC1CN(CC1C(=O)NC1=C2C=NNC2=CC(=C1)C1=C2C=CNC2=CC=C1)C(=O)OCC1=CC=CC=C1 | C28H25N5O4
